US09284323B2
A solution of (S)-ethyl 2-tert-butoxy-2-(4-fluoro-1-hydroxy-3,6-dimethylnaphthalen-2-yl)acetate (0.225 g, 0.65 g) in THF (5 mL) was treated with phenyl triflimide (0.26 g, 0.72 mmol) and allowed to stir at room temperature overnight. The reaction mixture was absorbed directly onto silica gel and purified via Yamazen silica gel column chromatography to afford (S)-ethyl 2-tert-butoxy-2-(4-fluoro-3,6-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate. 1H-NMR: 400 MHz, (CDCl3) δ: 7.93 (d, J=8.4 Hz, 1H); 7.86 (s, 1H); 7.47 (d, J=8.4 Hz, 1H); 5.70 (s, 1H); 4.28-4.09 (m, 2H); 2.56 (s, 3H); 2.44 (d, JHF=2.8 Hz, 3H); 1.21 (s, 9H); 1.19 (t, J=6.8 Hz, 3H).

reactant | (S)-ethyl 2-tert-butoxy-2-(4-fluoro-1-hydroxy-3,6-dimethylnaphthalen-2-yl)acetate | 0.225 g | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=C(C=C2C(=C1C)F)C)O | C20H25FO4
reactant | phenyl triflimide | 0.72 mmol, 0.26 g | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-ethyl 2-tert-butoxy-2-(4-fluoro-3,6-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=C(C=C2C(=C1C)F)C)OS(=O)(=O)C(F)(F)F | C21H24F4O6S
